US09056844B2
Step 6: Di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate
Potassium carbonate (153.45 g, 1.11 mol) is added to a suspension of di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-{[(4-nitrophenyl)carbonyl]oxy}bicyclo[3.1.0]hexane-2,6-dicarboxylate (273.00 g, 370.11 mmol) in methanol (3.28 L) at ambient temperature. After 16 hours, the reaction is concentrated in vacuo. The residue is dissolved in methyl tert-butyl ether (2 L), and washed subsequently with water (0.8 L), brine (0.8 L), dried over MgSO4, and concentrated in vacuo to yield the title compound as a white solid (215 g, 98% yield).

reactant | Potassium carbonate | 1.11 mol, 153.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-{[(4-nitrophenyl)carbonyl]oxy}bicyclo[3.1.0]hexane-2,6-dicarboxylate | 370.11 mmol, 273.00 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1OCC1=CC(=C(C=C1)Cl)Cl)OC(=O)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C35H42Cl2N2O11
solvent | methanol | 3.28 L | CO | CH4O
product | Di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate | 215 g, 98% yield | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1OCC1=CC(=C(C=C1)Cl)Cl)O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C28H39Cl2NO8
